US03987047
11-Chloro-2,3,4,5-tetrahydro-1H-azepino[4,3-b]quinoline dihydrochloride was prepared by hydrolysis of 2-acetyl-11-chloro-2,3,4,5-tetrahydro-1H-azepino[4,3-b]quinoline hydrochloride with 2 N hydrochloric acid. Yield of the dihydrochloride: 11% of theory; m.p. 260° C. (decomp.).

reactant | 2-acetyl-11-chloro-2,3,4,5-tetrahydro-1H-azepino[4,3-b]quinoline hydrochloride | Cl.C(C)(=O)N1CC=2C(=NC=3C=CC=CC3C2Cl)CCC1
reactant | hydrochloric acid | 2 N | Cl | ClH
reactant | dihydrochloride | C1(=C(C(=C(C(=C1F)F)F)N)F)N.Cl.Cl
product | 11-Chloro-2,3,4,5-tetrahydro-1H-azepino[4,3-b]quinoline dihydrochloride | Cl.Cl.ClC1=C2C(=NC=3C=CC=CC13)CCCNC2 | InChI=1S/C13H13ClN2.2ClH/c14-13-9-4-1-2-5-11(9)16-12-6-3-7-15-8-10(12)13;;/h1-2,4-5,15H,3,6-8H2;2*1H
